US07939533B2
a) (2S,4R)-[6-(4-Hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-iodo-pyridin-3-yl]-methyl-carbamic Acid tert-butyl Ester
A mixture of 26.5 g (71.8 mmol) (6-chloro-4-iodo-pyridin-3-yl)-methyl-carbamic acid tert-butyl ester and 25.4 g (144 mmol) (2S,4R)-2-(hydroxymethyl)-4-hydroxypyrrolidine in 260 ml dimethyl sulfoxide was stirred at 130° C. for 32 h. The reaction mixture was concentrated in vacuo, treated with 200 ml 2 N sodium carbonate solution and extracted with three 200-ml portions of ethyl acetate. The organic layers were washed with 200 ml 2 N sodium carbonate solution and 200 ml brine and dried over sodium sulfate. Flash chromatography gave 15.5 g (48%) of the title compound as a white foam.

reactant | (6-chloro-4-iodo-pyridin-3-yl)-methyl-carbamic acid tert-butyl ester | 71.8 mmol, 26.5 g | C(C)(C)(C)OC(N(C)C=1C=NC(=CC1I)Cl)=O | C11H14ClIN2O2
reactant | (2S,4R)-2-(hydroxymethyl)-4-hydroxypyrrolidine | 144 mmol, 25.4 g | OC[C@H]1NC[C@@H](C1)O | C5H11NO2
solvent | dimethyl sulfoxide | 260 ml | CS(=O)C | C2H6OS
product | (2S,4R)-[6-(4-Hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-iodo-pyridin-3-yl]-methyl-carbamic Acid tert-butyl Ester | 15.5 g, 48% | C(C)(C)(C)OC(N(C)C=1C=NC(=CC1I)N1[C@@H](C[C@H](C1)O)CO)=O | C16H24IN3O4
